US08222416B2
A solution of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-one (1.1 g, 3.2 mmol) in tetrahydrofuran (40 mL) at −78° C. was treated with lithiumbis(trimethylsilyl)amide in tetrahydrofuran (1 M, 5.6 mL, 5.6 mmol). The reaction was then stirred at −78° C. for 1 h. At this time, the reaction was treated with a solution of p-toluenesulfonic anhydride (2.0 g, 5.9 mmol) in tetrahydrofuran (6 mL). The reaction was stirred at −78° C. for 2 h. At this time, the reaction was poured into water (200 mL) and then extracted with ethyl acetate (3×100 mL). The organics were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel column chromatography (15% ethyl acetate/petroleum ether) afforded toluene-4-sulfonic acid-1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-but-1-enyl ester as a white solid (1.1 g, 67.8%): 1H NMR (300 MHz, d6-DMSO): δ ppm 8.38 (d, 1H, J=4.5 Hz), 8.04 (d, 2H, J=7.8 Hz), 7.72 (t, 1H, J=7.2 Hz), 7.63-7.58 (m, 2H), 7.33-7.27 (m, 3H), 7.00 (d, 2H, J=4.8 Hz), 6.72 (s, 1H), 5.78 (d, 2H, J=9.9 Hz), 2.81-2.75 (m, 1H), 2.11 (s, 3H), 1.01 (s, 3H), 0.99 (s, 3H).

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-one | 3.2 mmol, 1.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC(C)C)=O | C18H18N2O3S
reactant | lithiumbis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 5.9 mmol, 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.6 mmol, 1 M, 5.6 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid-1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-but-1-enyl ester | 1.1 g, 67.8% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC(C)C)OS(=O)(=O)C2=CC=C(C=C2)C | C25H24N2O5S2
